US06653304B2
A. 5-Fluoro-7-methoxy-2-methyl-1H-indole-3-carboxylic acid methyl ester
The above compound A was prepared from 2-bromo-4-fluoro-6-methoxy aniline and methyl acetoacetate according to the general procedure described above for Example 83, steps D and E. 238.0 (M+H), ret t: 3.64 min (A).

reactant | 2-bromo-4-fluoro-6-methoxy aniline | BrC1=C(N)C(=CC(=C1)F)OC | C7H7BrFNO
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | 5-Fluoro-7-methoxy-2-methyl-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=C(NC2=C(C=C(C=C12)F)OC)C | C12H12FNO3
